US09359375B2
To a solution of 2-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-6-((1R,2S)-2-tert-butyloxycarbonylaminocyclohexylamino)-5-cyanonicotinamide (50 mg, 0.12 mmol) in DMSO (1 mL) was added K2CO3 (200 mg, 1.45 mmol) and H2O2 (50% in H2O, 0.8 mL) at ambient temperature (caution: gas evolution). After stirring for 5 min, it was added water, the resulting precipitate was collected by filtration and was treated with TFA in DCM, 10 min later, the solution was concentrated and purified by preparative HPLC to give 2-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-6-((1R,2S)-2-aminocyclohexylamino)pyridine-3,5-dicarboxamide (20 mg). MS found for C26H33N9O4 as M+H, 436.4. λ=267.6, 312.8 nm.

reactant | 2-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-6-((1R,2S)-2-tert-butyloxycarbonylaminocyclohexylamino)-5-cyanonicotinamide | 0.12 mmol, 50 mg | N=1N(N=CC1)C=1C=C(C=CC1)NC1=C(C(=O)N)C=C(C(=N1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C)C#N | C26H31N9O3
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 0.8 mL | OO | H2O2
reactant | water | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-6-((1R,2S)-2-aminocyclohexylamino)pyridine-3,5-dicarboxamide | 20 mg | N=1N(N=CC1)C=1C=C(C=CC1)NC1=NC(=C(C=C1C(=O)N)C(=O)N)N[C@H]1[C@H](CCCC1)N | C21H25N9O2
